US05250548
2-Butyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carboxamide
2-Butyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carbonitrile, the product of Example 14, is heated in dilute aqueous potassium hydroxide. Neutralization with acetic acid affords the title compound.

reactant | 2-Butyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carbonitrile | C(CCC)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C#N | C23H22N8
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | potassium hydroxide | [OH-].[K+]
product | 2-Butyl-4-{N-[(2'-[1H-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carboxamide | C(CCC)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=O)N | C23H24N8O
